Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
Back pain
 
Major Surgical or Invasive Procedure:
Nil
 
History of Present Illness:
___ yo female with history of HL, hypothyroidism, anxiety and 
depression who presented after syncopal episode. She reports 
being in her USOH until she was walking up to the store this 
morning as per her routine. All of a sudden she felt her "eyes 
went black". She reports fainting and losing consciousness. She 
denies any other prior symptoms including dizziness, LH, visual 
changes, nausea, CP, SOB, or palpitations. She denies any 
urinary or fecal incontinence during the episode. She fell into 
a seated position, as if she "plopped down" and broke her fall 
with her right wrist. She then felt pain in both her right wrist 
and her left hip, and it was this pain that "awoke her". She 
denies hitting her head during the fall. No recent positional 
change prior to the syncopal event. She has previously 
experienced this same syncopal episode.  
.  
After her fall, she reports marked left hip pain. She denies any 
urinary or fecal incontinence since the fall. She denies 
numbness, tingling, weakness, or radiating pain in her legs
 
Past Medical History:
Osteopenia  
Hypothyroidism  
Depression  
Anxiety  
HLD  
Cataracts s/p repair  

 
Social History:
___
Family History:
Mother:faint spells, breast Ca in ___
 
Physical Exam:
VS - 97.7 66 117/64 14 96% on RA 73.8kg  
GENERAL - Alert, interactive, well-appearing elderly female in 
pain, laying still in bed, unable to sit  
HEENT - PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - Supple, no JVD  
HEART - PMI non-displaced, RRR, nl S1-S2, no MRG  
LUNGS - CTAB, no r/rh/wh, good air movement  
ABDOMEN - +BS, soft/NT/ND, no masses or HSM  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses  
BACK - tender over thoracic spine T4-T8, no paraspinal muscle 
tenderness, no lumbosacral tenderness, pain over left SI joint 
and into left groin  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout  
.  

 
Pertinent Results:
___ 07:30PM   cTropnT-<0.01
___ 07:30PM   WBC-14.9* RBC-4.80 HGB-13.0 HCT-41.2 MCV-86 
MCH-27.2 MCHC-31.6 RDW-13.___ yo female with history of osteopenia, HL, and hypothyroidism 
admitted for syncope.  
.  
# Syncope: Although patient has had previous syncopal episodes 
in the past, she has always had prior warning of feeling hot and 
sweatty and had managed to sit down and prevent herself from 
passing out.  This episode was different.  She had no prior 
warning symptoms as before making this episode an unlikely 
vasovagal.  There was no positional changes prior to fall making 
orthostatic hypotension induced syncope unlikely.  She is also 
not on any current anti-hypertensives such as thiazides.  She 
was not exerting herself in terms of coughing/sneezing prior to 
episode making effort syncope unlikely. However, she was walking 
to the store and exerting herself minimally although she states 
this walk has never troubled her before.  No faecal/urinary 
incontinence or confusion post syncope also rules out a seizure. 
Although she denies any chest pain/palpitations/SOB/headache, 
and unremarkable cardiovascular exam, her recent ECG shows new 
atrial enlargement and slight intraventricular delay.  This 
warrants further cardiac workup to rule out transient arrhythmia 
inducing syncopal episodes.  

-ECG - no ST/T wave changes, troponin <0.01  
-monitor on telemetry  
-ECHO looking specifically at valvular function (evidence of 
aortic stenosis) which came back normal
-As per Dr. ___, patient going home with event 
recorder
-Out patient PCP and cardiology appointments  
.  
# Left hip pain: Xrays without evidence of fracture. Most likely 
contusion of left hip/sacrum.  
-tylenol standing  
-patient has been taking ibuprofen PRN for back pain, so discuss 
risks in terms of GI bleed and pre-renal failure
-small dose of oxycodone prn further pain  
-___ consult  
  
.  
# Back pain: History of osteopenia on BMD in ___. Compression 
fracture seen in lumbar spine L2 level but does not correlate to 
current symptoms. Compression fracture in the thoracic spine 
would not be an unreasonable explanation for her current 
symptoms given the mechanism of her fall.  
-thoracic spine films  
-___ as outpatient 
-Discuss commencement of Calcium and Vit D supplements as well 
as bisphosphonates even though patient has declined these in the 
past 
.  
# Leukocytosis: Most likely stress response. No signs or 
symptoms of infection.  
  
.  
# Hypothyroidism: continue levothyroxine  
.  
# HL: continue simvastatin  
.  
# Anxiety/depression: continue sertraline  
.  

 
Medications on Admission:
 sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
 levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
 simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

 oxybutynin chloride 5 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  

 
Discharge Medications:
1. acetaminophen 500 mg Tablet Sig: ___ Tablets PO every six (6) 
hours.  
2. sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. oxybutynin chloride 5 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Syncope
-Lumbar level 2 fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the ___ on the ___ after ___ 
experienced a black out and subsequent back pain.  Hip x-rays 
and back x-rays were done on ___.  Hip x-rays showed no hip 
fracture but back x-ray revealed a fracture at the L2 level of 
your spine.  Your previous diagnosis of osteopenia likely 
contributed to this.

Your black out episode sounds like it could have been like your 
previous episodes.  However, in order to rule out a cardiac 
cause, we took an image of your heart with an "echo" which was 
normal.  We will still send ___ home with an event recorder 
which ___ will have for two weeks.  The results of this can be 
reviewed with Dr. ___ and with Dr. ___ as per your 
appointments below.

Your medications will continue as per your home regimen:
Oxybutinin 5mg twice daily
Simvastatin 20mg Once daily
Levothyroxine 75mcg once daily
Sertraline 50mg once daily
As acetominophen helped your pain, ___ may take the 500mg 
tablets ___ tablets upto 4 times per day, but don't take more 
than 6 in a day
Please ensure ___ attend your follow up appointments as 
described below.

It was a pleasure looking after ___ here at the ___.
 
Followup Instructions:
___